US05061730
To a solution of benzyl 4,4-bis(ethoxycarbonyl)-3-phenylbutyrate (3.98 g) in dioxane (50 ml) was added 10% palladium on carbon (0.5 g). The mixture was hydrogenated at 4 kgf/cm2 for 1 hour. The reaction mixture was filtered and the filtrate was evaporated off to give 4,4-bis(ethoxycarbonyl)-3-phenylbutyric acid (2.7 g) as an oil.

reactant | benzyl 4,4-bis(ethoxycarbonyl)-3-phenylbutyrate | 3.98 g | C(C)OC(=O)C(C(CC(=O)OCC1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC | C23H26O6
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 4,4-bis(ethoxycarbonyl)-3-phenylbutyric acid | 2.7 g | C(C)OC(=O)C(C(CC(=O)O)C1=CC=CC=C1)C(=O)OCC | C16H20O6
